US05358938
3,4-Dimethoxy-5-iodo-benzaldehyde (compound 102, FIG. 1)
A mixture of 5-iodovanillin (7 g, 25.18 mmole), potassium carbonate (8.78 g, 63.53 mmole) and iodomethane (6.43 g, 45.30 mmole) was suspended in 60 mL of DMF and stirred at room temperature for 14 hours. The reaction mixture was quenched with water and extracted with diethyl ether. The organic layer was dried over MgSO4, filtered and evaporated in vacuo to obtain a solid which was recrystallized from hexane/ethyl acetate (2:1) (6.28 g, 85.4%).

reactant | 5-iodovanillin | 25.18 mmole, 7 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | potassium carbonate | 63.53 mmole, 8.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 45.30 mmole, 6.43 g | IC | CH3I
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3,4-Dimethoxy-5-iodo-benzaldehyde | COC=1C=C(C=O)C=C(C1OC)I | C9H9IO3
